US06380387B1
To a suspension of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester (0.278 mmol, 131 mg) in ethanol (4 mL) was added aqueous 1.0 N sodium hydroxide (3 mL) at room temperature. The mixture was heated to 40-45° C. and the resulting clear solution was stirred for 2-3 h. The ethanol was removed under reduced pressure and the residue was diluted with water (20 mL) and NaOH (3 mL, 1.0N) to dissolve the sodium salt. The aqueous solution was washed with ether (50 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted into ethyl acetate (2×50 mL). The combined organic extracts were washed with brine solution and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate afforded 107 mg (85%) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine as a white solid: mp 234-236° C. EI-HRMS m/e calcd for C23H22N3O5Cl (M+H) 456.1326, found 456.1326.

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 0.278 mmol, 131 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)=O | C24H24ClN3O5
reactant | sodium hydroxide | 1.0 N, 3 mL | [OH-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 107 mg, 85% | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C(=O)O | C23H22ClN3O5
